US08372823B2
Ethyl 3-(4-phenoxyphenyl)propanoate (S29).
A solution of ethyl (E)-3-(4-benzylphenyl)acrylate (S28, 500 mg, 1.97 mmol) in EtOH (20 mL) was treated with 10% Pd/C (45 mg) and purged with H2. The reaction mixture was stirred overnight at 25° C., filtered through Celite and concentrated to afford S29 (502 mg, 1.96 mmol, 99%) as a yellow oil: 1H NMR (CDCl3, 500 MHz) 7.34 (dd, 2H, J=8.4, 7.4 Hz), 7.17 (d, 2H, J=8.4 Hz), 7.09 (dt, 1H, J=7.7, 1.1 Hz), 7.00 (dd, 2H, J=8.8, 1.1 Hz), 6.95 (d, 2H, J=8.8 Hz), 4.14 (q, 2H, J=7.0 Hz), 2.94 (t, 2H, J=7.7 Hz), 2.63 (t, 2H, J=7.7 Hz), 1.25 (t, 3H, J=7.0 Hz).

reactant | ethyl (E)-3-(4-benzylphenyl)acrylate | C(C1=CC=CC=C1)C1=CC=C(C=C1)/C=C/C(=O)OCC | C18H18O2
reactant | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 45 mg | [Pd] | Pd
product | Ethyl 3-(4-phenoxyphenyl)propanoate | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCC(=O)OCC | C17H18O3
